US04069205
A. Synthesis of 1,3-Bis(p-phenoxybenzenesulfonyl)benzene: V
To a solution of 137.0 grams (0.498 mole) of m-benzenedisulfonyl chloride in 170 grams of diphenyl ether was added 1.0 gram of ferric chloride. The reaction was stirred at 170° C for 24 hours. After the reaction had cooled to room temperature, ethyl ether was added and the mixture was filtered and washed with water. The ether layer was separated, filtered, and dried over Na2SO4. Evaporation of the ether and distillation of diphenyl ether under reduced pressure afforded a crude solid. The crude product then was distilled under high vacuum (0.1mm) with an open flame. The distillate solidified upon cooling and was dissolved in 40 ml of chloroform and 800 ml of ethyl ether. A small amount of insoluble black residue was filtered from the solution. The addition of 800 ml of petroleum ether precipitated 160 grams (63%) of a white powder, mp 70°-75° C.

reactant | m-benzenedisulfonyl chloride | 0.498 mole, 137.0 grams | C1(=CC(=CC=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | diphenyl ether | 170 grams | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1,3-Bis(p-phenoxybenzenesulfonyl)benzene | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C30H22O6S2
